US07220862B2
(±)-2-Amino-3-(7-chloro-1H-indazol-5-yl)-propionic acid methyl ester
A solution of 2-benzyloxycarbonylamino-3-(7-chloro-1H-indazol-5-yl)-acrylic acid methyl ester (300 mg, 0.78 mmol) in methanol (10 mL) was treated with trifluoroacetic acid (0.2 mL), flushed with nitrogen, and treated with 10% palladium on charcoal (30 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen. After 4 days, all starting material had been consumed. The reaction was flushed with nitrogen, filtered through celite, and concentrated. Column chromatography gave 78 mg (40%). 1H-NMR (CDCl3, 500 MHz) δ 1.31 (bs, 3H), 2.95 (dd, J=13.7, 7.9, 1H), 3.18 (dd, J=13.7, 5.2, 1H), 3.48 (s, 3H), 3.78 (dd, J=7.9, 5.2, 1H), 7.23 (s, 1H), 7.46 (s, 1H), 8.00 (s, 1H). Mass spec.: 254.06 (MH)+.

reactant | 2-benzyloxycarbonylamino-3-(7-chloro-1H-indazol-5-yl)-acrylic acid methyl ester | 0.78 mmol, 300 mg | COC(C(=CC=1C=C2C=NNC2=C(C1)Cl)NC(=O)OCC1=CC=CC=C1)=O | C19H16ClN3O4
reactant | trifluoroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 10 mL | CO | CH4O
product | (±)-2-Amino-3-(7-chloro-1H-indazol-5-yl)-propionic acid methyl ester | COC(C(CC=1C=C2C=NNC2=C(C1)Cl)N)=O | C11H12ClN3O2
